US07772285B2
16.5 g of 1-benzothiophene-5-carbaldehyde and 49.5 mL of ethylene glycol were dissolved in 165 mL of toluene, to which 0.30 g of para-toluenesulfonic acid monohydrate was added, and this solution was stirred for 7 hours while heating it under reflux. The reaction mixture was cooled to room temperature, to which an aqueous solution of sodium hydroxide was added, and then the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=5:1] to yield 15.8 g of 2-(1-benzothiophen-5-yl)-1,3-dioxolane as yellow oil.

reactant | 1-benzothiophene-5-carbaldehyde | 16.5 g | S1C=CC2=C1C=CC(=C2)C=O | C9H6OS
reactant | ethylene glycol | 49.5 mL | C(CO)O | C2H6O2
reactant | para-toluenesulfonic acid monohydrate | 0.30 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 165 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(1-benzothiophen-5-yl)-1,3-dioxolane | 15.8 g | S1C=CC2=C1C=CC(=C2)C2OCCO2 | C11H10O2S
